US07767691B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-nonyl-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 2, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol (29.3 mg, 0.105 mmol) and 1-bromononane (0.04 mL, 0.2 mmol) in 2 CH3CN/3 CHCl3 (2.5 mL) were reacted to give the desired product (31.5 mg, 62%). EI-MS m/z 407 (M+) Rt (2.23 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 0.105 mmol, 29.3 mg | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
reactant | 1-bromononane | 0.2 mmol, 0.04 mL | BrCCCCCCCCC | C9H19Br
solvent | CH3CN | 2.5 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-nonyl-1-azoniabicyclo[2.2.1]heptane bromide | 31.5 mg, 62% | [Br-].OC(C12CC[N+](CC1)(C2)CCCCCCCCC)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C28H40NO.BrH/c1-2-3-4-5-6-7-14-21-29-22-19-27(24-29,20-23-29)28(30,25-15-10-8-11-16-25)26-17-12-9-13-18-26;/h8-13,15-18,30H,2-7,14,19-24H2,1H3;1H/q+1;/p-1
